US05830614
N,N'-diphenyl-N,N'-bis(3-hydroxyphenyl)-(1,1'-biphenyl)-4,4'-diamine was prepared, for example, from N,N'-di(3-methoxyphenyl)-N,N'-diphenyl-[1,1'-biphenyl]-4,4'diamine by placing into a two liter three-necked round bottom flask, equipped with a mechanical stirrer and an argon gas inlet, 137.5 gms, N,N'-diphenyl-N,N'-bis(3-methoxy phenyl)-[1,1'-biphenyl]-4,4'diamine (0.25 moles), 223.5 gms anhydrous sodium iodide (1.5 moles) and 500 milliliters warm sulfolane (distilled). The contents of the flask were heated to 120° C. and then cooled to 60° C. Five milliliters of D.I. water was added dropwise, followed by 190.5 milliliters of trimethyl(chlorosilane) (1.5 moles). The contents were allowed to reflux for six hours. HPLC analysis was utilized to determine when the reaction was complete. The contents of the flask were poured into a 3 liter Erlenmeyer flask containing 1.5 liter of deionized water. The water layer was decanted and the dark oily residue taken up into 500 milliliters methanol. The methanol solution was extracted with two 400 milliliter portions of hexane to remove the hexamethyldisiloxane by-products. The methanol solution was roto-evaporated to remove the solvents. The residue was taken up in 500 milliliters of acetone and then precipitated into 1.5 liters deionized water. The off-white solid was filtered and then washed with deionized water and dried in vacuo. The crude N,N'diphenyl-N,N'-bis(3-hydroxyphenyl)-(1,1'-biphenyl)-4,4'-diamine was placed into a two liter round-bottom flask containing a magnetic stirrer and one liter toluene. Fifty gms. of Florisil® (Florisil is a registered trademark of Floridin Co.) was added to the flask and allowed to stir for two hours. The dark Florisil® was filtered off, leaving a pale yellow toluene solution. The toluene was roto-evaporated to yield a pale yellow viscous oil. The oily product was dissolved in 400 milliliters acetone, then diluted with 400 milliliters heptane and allowed to crystallize. The colorless crystals were filtered. Additional product was obtained by roto-evaporating the acetone from the filtrate. Yield was 85 percent, m.p. 113°-17° C.

reactant | N,N'-di(3-methoxyphenyl)-N,N'-diphenyl-[1,1'-biphenyl]-4,4'diamine | COC=1C=C(C=CC1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC(=CC=C1)OC)C1=CC=CC=C1 | C38H32N2O2
reactant | N,N'-diphenyl-N,N'-bis(3-methoxy phenyl)-[1,1'-biphenyl]-4,4'diamine | 0.25 moles | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)OC)C1=CC=CC=C1)C1=CC(=CC=C1)OC | C38H32N2O2
reactant | sodium iodide | 1.5 moles, 223.5 gms | [I-].[Na+]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | trimethyl(chlorosilane) | 1.5 moles, 190.5 milliliters | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetone | 400 milliliters | CC(=O)C | C3H6O
solvent | heptane | 400 milliliters | CCCCCCC | C7H16
solvent | water | 1.5 liter | O | H2O
product | N,N'-diphenyl-N,N'-bis(3-hydroxyphenyl)-(1,1'-biphenyl)-4,4'-diamine | Yield was 85 percent | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)O)C1=CC=CC=C1)C1=CC(=CC=C1)O | C36H28N2O2
